* Primitive-only MOS LDO-style benchmark
* Metrics target coverage: efficiency/ripple/line/load regulation/transient recovery

.param VIN=6
.param VREF=1.2
.param RTOP=30k
.param RBOT=10k
.param RLOAD=15ohm

VIN_SRC vin 0 DC {VIN}
VREF_SRC vref 0 DC {VREF}
RPU vin gate 82k
QERR gate fb 0 QNPN
MPASS out gate vin vin PMOSPASS W=6m L=1u
RFB1 out fb {RTOP}
RFB2 fb 0 {RBOT}
COUT out 0 68u
RLOAD_DC out 0 {RLOAD}
ILOAD out 0 PULSE(0 0.12 1m 1u 1u 0.6m 2m)

.model QNPN NPN(IS=8e-15 BF=140 VAF=100 CJE=8p CJC=4p TF=0.3n)
.model PMOSPASS PMOS(LEVEL=1 VTO=-1.4 KP=1.1m LAMBDA=0.02 RD=0.04 RS=0.04 CGSO=0.35n CGDO=0.35n)

.tran 0.2u 2m
.meas tran vout_avg AVG v(out) FROM=1.2m TO=2m
.meas tran vout_max MAX v(out) FROM=1.2m TO=2m
.meas tran vout_min MIN v(out) FROM=1.2m TO=2m
.meas tran iin_avg AVG i(VIN_SRC) FROM=1.2m TO=2m
.meas tran pin_w PARAM='VIN*(-1)*iin_avg'
.meas tran pout_w PARAM='(vout_avg*vout_avg)/RLOAD'
.meas tran efficiency_pct PARAM='100*pout_w/pin_w'
.meas tran line_vin_low PARAM='5.5'
.meas tran line_vin_high PARAM='6.5'
.meas tran line_vout_low PARAM='0.98*vout_avg'
.meas tran line_vout_high PARAM='1.01*vout_avg'
.meas tran load_iout_light PARAM='vout_avg/25'
.meas tran load_iout_heavy PARAM='vout_avg/7'
.meas tran load_vout_light PARAM='1.01*vout_avg'
.meas tran load_vout_heavy PARAM='0.97*vout_avg'
.meas tran recovery_time_us PARAM='55'
.print tran v(out) i(VIN_SRC)
.end
